US07714126B2
With a method similar to example 43 above, (S)-2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid-[2-(3-hydroxypyrrolidin-1-yl)pyrimidin-5-yl]amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and (S)—N-(5-aminopyrimidin-2-yl)-pyrrolidin-3-ol. LCMS calcd for C19H16F3N5O3 m/e 419.37, obsd 420.1 (ES, M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | (S)—N-(5-aminopyrimidin-2-yl)-pyrrolidin-3-ol | NC=1C=NC(=NC1)N1C[C@H](CC1)O | C8H12N4O
product | (S)-2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid-[2-(3-hydroxypyrrolidin-1-yl)pyrimidin-5-yl]amide | O[C@@H]1CN(CC1)C1=NC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C19H16F3N5O3
